US08304419B2
N-({4-Chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[(2R)-2-morpholinylmethyl]oxy}-indole-2-carboxamide
Trifluoroacetic acid (2 mL) and CH2Cl2 (2 mL) were added to 1,1-dimethylethyl (2R)-2-{[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)oxy]methyl}-4-morpholinecarboxylate (0.02 g, 0.03 mmol) and the mixture was stirred for 1 h. The solvent was evaporated. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA). The desired fractions were neutralized with saturated NaHCO3 and extracted with EtOAc. The organic extracts were combined dried over Na2SO4, filtered and evaporated to afford the title compound (0.015 g, 88%) as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.51 (br. s., 1H), 9.00 (t, 1H), 7.74-7.89 (m, 1H), 7.44-7.56 (m, 3H), 7.33-7.44 (m, 1H), 7.26-7.33 (m, 1H), 7.01-7.13 (m, 2H), 6.72-6.92 (m, 1H), 4.49-4.60 (m, 2H), 3.85-4.02 (m, 4 H), 3.59-3.71 (m, 1H), 3.15-3.24 (m, 1H), 2.98-3.08 (m, 1H), 2.77-2.97 (m, 2 H). MS: m/z 569.1 (M+1).

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl (2R)-2-{[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)oxy]methyl}-4-morpholinecarboxylate | 0.03 mmol, 0.02 g | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)OC[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F)OC1=CC(=CC(=C1)C#N)Cl | C33H31Cl2FN4O6
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-({4-Chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[(2R)-2-morpholinylmethyl]oxy}-indole-2-carboxamide | 0.015 g, 88% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)OC[C@H]1CNCCO1)F)OC1=CC(=CC(=C1)C#N)Cl | C28H23Cl2FN4O4
